US09302988B2
Step 1: 1-Benzyl-4-(4-chlorophenyl)-3-methyl-5-(morpholine-4-carbonyl)-1H-pyrrole-2-carbaldehyde
To an ice-cold solution of DMF (0.441 mL, 5.70 mmol) in DCM (5 mL) was added POCl3 (0.425 mL, 4.56 mmol). After stirring the reaction mixture at 0° C. for 15 min, a solution of (1-benzyl-3-(4-chlorophenyl)-4-methyl-1H-pyrrol-2-yl)(morpholino)methanone [obtained via standard EDI/HOAt coupling of ACI-02 with morpholine] (900 mg, 2.28 mmol) in DCM (1 mL) was dropwise added. The reaction was stirred for 30 min, then the ice-bath was removed and stirring was continued at room temperature for 1 h. The reaction mixture was cooled to 0° C., then saturated aqueous NaHCO3 was added while vigorously stirring, until the mixture was neutralised. The mixture was extracted with DCM, washed with brine and concentrated. The residue was dissolved in i-PrOH and precipitated with H2O. The precipitate was filtered, washed with i-PrOH/H2O (1:1, 2×) and MeOH (2×) and dried on for a couple of hours to give the desired product (761 mg, 79%).

reactant | DMF | 5.70 mmol, 0.441 mL | CN(C)C=O | C3H7NO
reactant | POCl3 | 4.56 mmol, 0.425 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | (1-benzyl-3-(4-chlorophenyl)-4-methyl-1H-pyrrol-2-yl)(morpholino)methanone | 2.28 mmol, 900 mg | C(C1=CC=CC=C1)N1C(=C(C(=C1)C)C1=CC=C(C=C1)Cl)C(=O)N1CCOCC1 | C23H23ClN2O2
reactant | HOAt | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-4-(4-chlorophenyl)-3-methyl-5-(morpholine-4-carbonyl)-1H-pyrrole-2-carbaldehyde | 761 mg, 79% | C(C1=CC=CC=C1)N1C(=C(C(=C1C(=O)N1CCOCC1)C1=CC=C(C=C1)Cl)C)C=O | C24H23ClN2O3
